US05025025
A solution of 125 g of ethyl 4-(3-cyanopropyl)-7-(3-pyridyl)-6-heptenoate in 825 ml of 9.53% ethanolic ammonia is added to a slurry of 62.5 g of 5% rhodium on carbon (50% water wet) in 300 ml of 9.53% ethanolic ammonia. The mixture is hydrogenated at about 3 atmospheres pressure (50 psi) until theoretical uptake of hydrogen (4 moles) for saturation of the nitrile and double bond is obtained (about 12 hours). The catalyst is then filtered off, washed with methylene chloride and ethanol, and the filtrate is evaporated to dryness to yield a residue which is redissolved in toluene. Evaporation to dryness yields ethyl 8-amino-4-[3-(3-pyridyl)-propyl]-octanoate.

reactant | ethyl 4-(3-cyanopropyl)-7-(3-pyridyl)-6-heptenoate | 125 g | C(#N)CCCC(CCC(=O)OCC)CC=CC=1C=NC=CC1 | C18H24N2O2
reactant | hydrogen | 4 moles | [H][H] | H2
solvent | ammonia | 825 ml | N | H3N
solvent | ammonia | 300 ml | N | H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium on carbon | 62.5 g | [Rh] | Rh
product | ethyl 8-amino-4-[3-(3-pyridyl)-propyl]-octanoate | NCCCCC(CCC(=O)OCC)CCCC=1C=NC=CC1 | C18H30N2O2
